US03962224
Trichloroethyl α-amino-diethylphosphonoacetate p-toluenesulfonate (1.03 g., 2 mmole) is partitioned between methylene chloride (20 ml.) and aqueous phosphate (4 ml. 1M dipotassium phosphate + 6 ml. water). The aqueous phase (pH 6.8) is separated and extracted with an additional portion of methylene chloride (10 ml.). The combined organic solution is washed with saturated brine (10 ml.), dried over magnesium sulfate, and evaporated in vacuo to give trichloroethyl α-amino-diethylphosphonoacetate (0.67 g.) as a pale yellow oil.

reactant | Trichloroethyl α-amino-diethylphosphonoacetate p-toluenesulfonate | 2 mmole, 1.03 g | C1(=CC=C(C=C1)S(=O)(=O)O)C.NC(C(=O)OCC(Cl)(Cl)Cl)P(=O)(OCC)OCC
reactant | phosphate | 1M, 4 ml | P(=O)([O-])([O-])[O-]
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | trichloroethyl α-amino-diethylphosphonoacetate | 0.67 g | NC(C(=O)OCC(Cl)(Cl)Cl)P(=O)(OCC)OCC | C8H15Cl3NO5P
